US07612201B2
4-[1-(6-Benzyloxy-3-methyl-1H-indole-5-carbonyl)-2-dimethylamino-vinyl]-piperazine-1-carboxylic acid benzyl ester
A solution of 4-[2-(6-benzyloxy-3-methyl-1H-indol-5-yl)-2-oxo-ethyl]-piperazine-1-carboxylic acid benzyl ester (0.661 g, 1.33 mmol) in DMFDMA (5 ml) was heated at 100° C. overnight. The solvent was removed in vacuo and the crude product purified by column chromatography in hexane/EtOAc (1:1) to afford the product (0.158 g, 22%). LC/MS: RT=5.33 min. 553 (MH+).

reactant | 4-[2-(6-benzyloxy-3-methyl-1H-indol-5-yl)-2-oxo-ethyl]-piperazine-1-carboxylic acid benzyl ester | 1.33 mmol, 0.661 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)CC(=O)C=1C=C2C(=CNC2=CC1OCC1=CC=CC=C1)C | C30H31N3O4
solvent | DMFDMA | 5 ml | CN(C)C(OC)OC | C5H13NO2
product | 4-[1-(6-Benzyloxy-3-methyl-1H-indole-5-carbonyl)-2-dimethylamino-vinyl]-piperazine-1-carboxylic acid benzyl ester | 0.158 g, 22% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=CN(C)C)C(=O)C=1C=C2C(=CNC2=CC1OCC1=CC=CC=C1)C | C33H36N4O4
